US08729078B2
In a 25 mL round-bottomed flask, 6-(4-methylpiperazin-1-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (110 mg, 456 μmol), 6-tert-butyl-8-fluoro-2-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-4-yl)phthalazin-1(2H)-one (177 mg, 501 μmol, Eq: 1.10) and copper acetate (112 mg) were combined with 1,2-dichloroethane (3.03 ml) to give a blue suspension. Pyridine (72.1 mg, 73.7 μl, 912 μmol, Eq: 2) was added. The reaction mixture was heated to 45° C. and stirred for 2 d. The reaction mixture was poured into 20 mL EtOAc and extracted with sat NH4Cl (3×20 mL). The organic layers were dried over MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 40 g, 5% to 10% MeOH in DCM) to give 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-6-(4-methylpiperazin-1-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (43 mg, 17%) of off white solid.

reactant | 6-(4-methylpiperazin-1-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 456 μmol, 110 mg | CN1CCN(CC1)C1=CC=C2C(=N1)NC=C2C#N | C13H15N5
reactant | 6-tert-butyl-8-fluoro-2-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-4-yl)phthalazin-1(2H)-one | 501 μmol, 177 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C1=CC=CC=2B(OCC21)O | C19H18BFN2O3
reactant | 1,2-dichloroethane | 3.03 ml | ClCCCl | C2H4Cl2
reactant | Pyridine | 912 μmol, 73.7 μl, 72.1 mg | N1=CC=CC=C1 | C5H5N
catalyst | copper acetate | 112 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-6-(4-methylpiperazin-1-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 43 mg, 17% | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C=2C1=NC(=CC2)N2CCN(CC2)C)C#N)CO | C32H32FN7O2
